US08076516B2
To a mixture of (S)-4-benzyl-3-propionyloxazolidin-2-one, anhydrous MgCl2 (0.104 g, 1.09 mmol) and 3-bromobenzaldehyde in EtOAc is added Et3N followed by chlorotrimethylsilane. The reaction mixture is stirred under argon at room temperature for 24 h and then filtered through a layer of a silica gel, washing with EtOAc. The combined filtrates are concentrated under reduced pressure and the residue is purified by flash chromatography (1 to 30% EtOAc/hexane gradient) to give (S)-4-benzyl-3-((2R,3S)-3-(3-bromophenyl)-2-methyl-3-(trimethylsilyloxy)propanoyl)oxazolidin-2-one.

reactant | (S)-4-benzyl-3-propionyloxazolidin-2-one | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)C(CC)=O | C13H15NO3
reactant | MgCl2 | 1.09 mmol, 0.104 g | [Mg+2].[Cl-].[Cl-]
reactant | 3-bromobenzaldehyde | BrC=1C=C(C=O)C=CC1 | C7H5BrO
reactant | chlorotrimethylsilane | Cl[Si](C)(C)C | C3H9ClSi
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | Et3N | CCN(CC)CC | C6H15N
product | (S)-4-benzyl-3-((2R,3S)-3-(3-bromophenyl)-2-methyl-3-(trimethylsilyloxy)propanoyl)oxazolidin-2-one | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)C([C@@H]([C@H](O[Si](C)(C)C)C1=CC(=CC=C1)Br)C)=O | C23H28BrNO4Si
